US07026324B2
A solution of {3-[3-(tert-butoxycarbonyl-cyclopropylmethyl-amino)-propylamino]-2-oxo-2H-pyrazin-1-yl}-acetic acid ethyl ester (250 mg, 0.61 mmol) and lithium hydroxide monohydrate (33 mg, 0.79 mmol) in water (0.72 ml) and methanol (3.6 ml) was stirred at room temperature for 2 h. hydrochloric acid solution (1N, 0.79 ml) was added and the reaction mixture was stirred at room temperature for 10 min. Concentration from methanol gave {3-[3-(tert-butoxycarbonyl-cyclopropylmethyl-amino)-propylamino]-2-oxo-2H-pyrazin-1-yl}-acetic acid; 1H NMR (CD3OD, 400 MHz) δ 6.78 (d, 1H, J=4.8 Hz), 6.69 (d, 1H, J=4.9 Hz), 4.61 (s, 2H), 3.32 (m, 4H), 3.12 (d, 2H, J=6.8 Hz), 1.89 (m, 2H), 1.45 (s, 9H), 1.00 (m, 1H), 0.48 (m, 2H), 0.22 (m, 2H).

reactant | {3-[3-(tert-butoxycarbonyl-cyclopropylmethyl-amino)-propylamino]-2-oxo-2H-pyrazin-1-yl}-acetic acid ethyl ester | 0.61 mmol, 250 mg | C(C)OC(CN1C(C(=NC=C1)NCCCN(CC1CC1)C(=O)OC(C)(C)C)=O)=O | C20H32N4O5
reactant | lithium hydroxide monohydrate | 0.79 mmol, 33 mg | O.[OH-].[Li+]
reactant | hydrochloric acid | 1N, 0.79 ml | Cl | ClH
solvent | water | 0.72 ml | O | H2O
solvent | methanol | 3.6 ml | CO | CH4O
product | {3-[3-(tert-butoxycarbonyl-cyclopropylmethyl-amino)-propylamino]-2-oxo-2H-pyrazin-1-yl}-acetic acid | C(C)(C)(C)OC(=O)N(CCCNC=1C(N(C=CN1)CC(=O)O)=O)CC1CC1 | C18H28N4O5
